US05679821
The same procedure as in Example 1 was followed to conduct a reaction, except that 0.02 g of methoxyphenol was further added. After completion of the reaction, the reaction product was analyzed by GC. As a result, it was thus found that triethoxysilylpropyl acrylate as the objective compound had been obtained in a yield of 96% (in terms of triethoxysilylpropyl acetate).

reactant | methoxyphenol | 0.02 g | COC1=C(C=CC=C1)O | C7H8O2
reactant | triethoxysilylpropyl acrylate | C(C=C)(=O)OCCC[Si](OCC)(OCC)OCC | C12H24O5Si
product | triethoxysilylpropyl acetate | yield of 96% | C(C)(=O)OCCC[Si](OCC)(OCC)OCC | C11H24O5Si
